US05523299
2-(5-Ethylsulphonyl-2-methoxyphenyl)-5-(1-piperidinylmethyl)-1H-pyrrole (E2)
A solution of piperidine (0.027 g, 0.32 mmol) in dry ethanol (2 ml) at room temperature was treated with aqueous formaldehyde (40%; 0.030g, 0.34 mmol) and glacial acetic acid (0.027 g, 0.45 mmol). The mixture was stirred at room temperature for 30 mins then was added dropwise to a solution of 2-(5-ethylsulphonyl-2-methoxyphenyl)-1H-pyrrole (0.086 g, 0.32 mmol) in dry ethanol (1 ml). The reaction mixture was stirred at room temperature for 18 hours then evaporated in vacuo. Chromatography on alumina (Brockmann grade 1) with ethyl acetate as eluant gave the title compound (E2)as a waxy solid after trituration with pentane (0.082 g, 70%).

reactant | piperidine | 0.32 mmol, 0.027 g | N1CCCCC1 | C5H11N
reactant | formaldehyde | 0.34 mmol, 0.030g | C=O | CH2O
reactant | acetic acid | 0.45 mmol, 0.027 g | C(C)(=O)O | C2H4O2
reactant | 2-(5-ethylsulphonyl-2-methoxyphenyl)-1H-pyrrole | 0.32 mmol, 0.086 g | C(C)S(=O)(=O)C=1C=CC(=C(C1)C=1NC=CC1)OC | C13H15NO3S
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-(5-Ethylsulphonyl-2-methoxyphenyl)-5-(1-piperidinylmethyl)-1H-pyrrole | C(C)S(=O)(=O)C=1C=CC(=C(C1)C=1NC(=CC1)CN1CCCCC1)OC | C19H26N2O3S
